* \\psf\Home\Documents\Lettuce Buddy HW\HealthyEC\LTSpice\ECCircuitWithFloatingGNDV1.asc
R3 N003 N008 1K
R6 N002 N001 1K
R4 N005 N008 10K
R5 N002 N005 22K
R7 N004 N002 100K
R8 0 N004 4K7
C5 N003 N008 100n
C6 N001 N003 100n
V1 +5V 0 5
V2 -5V 0 -5
D1 N009 N010 1N4148
R9 N006 N007 1K
R0 N007 0 800
C1 N002 N011 100n
D2 N005 N011 1N4148
D3 N011 N005 1N4148
R10 N010 0 10K
C7 N010 0 1µ
XU1 N003 N005 +5V -5V N002 TL072
XU5 N004 N007 +5V -5V N006 TL072
XU6 N006 N010 +5V -5V N009 TL072
R1 +5V .45V 3.3K
R2 .45V 0 1K
R11 .45V N008 1K
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0 .1 0 .01 startup
* .step param R 800 1300 100
.lib TL072.sub
.backanno
.end
