* \\psf\Home\Documents\Lettuce Buddy HW\HealthyEC\LTSpice\EC_Float_LT1413.asc
R3 N003 N009 1K
R6 N002 N001 1K
R4 N005 N009 10K
R5 N002 N005 22K
R7 N004 N002 100K
R8 VGND N004 33K
C5 N003 N009 100n
C6 N001 N003 100n
V1 +5V 0 5
V2 -5V 0 -5
D1 N010 N011 1N4148
R9 N006 N007 1000
R0 N007 VGND {R}
C1 N002 N013 100n
D2 N005 N013 1N4148
D3 N013 N005 1N4148
R10 N011 VGND 10K
C7 N011 VGND 10µ
R11 VGND N009 1
XU1 N006 N011 +5V 0 N010 LT1413
XU3 N004 N007 +5V 0 N006 LT1413
XU4 N003 N005 +5V 0 N002 LT1413
R12 N012 N011 1K
C2 N012 VGND 4.7µ
E1 MEAS_OUT 0 N012 VGND 1
R1 MEAS_OUT 0 10K
XU2 N008 VGND +5V 0 VGND LT1413
R2 +5V N008 1K
R13 N008 0 1K
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0 .1 0 .01 startup
.step  param R list 200 1000
.lib LTC.lib
.backanno
.end
