* \\psf\Margaret\BitKnitting\prototypes\LTSpice\EC\miniEC_WienBridge.asc
R3 N003 0 1K
R6 N002 N001 1K
R4 N004 0 10K
R5 N002 N004 22K
C5 N003 0 100n
C6 N001 N003 100n
V1 +5V 0 5
V2 -5V 0 -5
C1 N002 N005 100n
D2 N004 N005 1N4148
D3 N005 N004 1N4148
XU1 N003 N004 +5V -5V N002 TL072
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0 .1 0 .01 startup
.lib TL072.sub
.backanno
.end
